Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy.

 
History of Present Illness:
___ year old female presents with nausea, vomiting, diarrhea. Per
patient, she developed acute onset of nausea, vomiting, 
diarrhea.
She has vomited roughly 12 times, non-bloody, non-bilious. She
also notes roughly 20 episodes of diarrhea, non-bloody, liquid.
She notes crampy epigastric abdominal pain, but denies any
additional abdominal pain. She denies fevers, but endorses
chills. She has a history of ulcerative colitis, but says that
her exacerbations feel different than this and she has not had
one in many years. She endorses sick contacts of her daughter 
who
has diarrhea as well. She notes that she was recently on
prednisone for 15 days for breathing problems (exact diagnosis
unknown), and finished these one day ago.

In the ED, initial vitals were 98.3 98 ___ 100% RA.  Exam
showed dry mucous membranes, mild epigastric discomfort to
palpation, no distention, no rebound or guarding.   Labs showed
CRP 46.8, bicarbonate 21, lactate is 1.5.  Norovirus testing was
negative.  Patient was hypotensive to SBP 85, got 2 liters of
fluid with improvement to SBP 100.  She received ondansetron 4 
mg
x 1, acetaminophen 1000 mg x 1.  KUB showed no evidence of bowel
obstruction or free air.  She was unable to tolerate PO.  C. 
diff
PCR was sent.

Currently, the patient reports no further nausea or vomiting. 
She has had about seven watery bowel movements today.  She
reports mild ___ diffuse crampy abdominal pain.  There is no
chest pain or dyspnea.
 
 
Review of systems:  
10 pt ROS negative other than noted 

 
Past Medical History:
- Asthma on albuterol PRN
- Ulcerative colitis on no meds; last flare several years ago
- Shingles
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
97.6
PO 109 / 73
L Sitting 69 16 97 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities 
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.

On the day of discharge the patient continued to have no more 
nausea or vomiting, no abdominal pain. Tolerating solid diet and 
fluid intake very well. Had two bouts of loose stool the day 
prior to discharge.
 
Pertinent Results:
___ 05:12AM BLOOD WBC-5.4 RBC-4.10 Hgb-12.3 Hct-37.5 MCV-92 
MCH-30.0 MCHC-32.8 RDW-13.3 RDWSD-44.9 Plt ___
___ 09:15AM BLOOD WBC-4.9 RBC-4.83 Hgb-14.3 Hct-43.3 MCV-90 
MCH-29.6 MCHC-33.0 RDW-14.2 RDWSD-45.7 Plt ___
___ 05:12AM BLOOD Glucose-92 UreaN-8 Creat-0.8 Na-144 K-4.3 
Cl-105 HCO3-26 AnGap-13
___ 05:08AM BLOOD ALT-22 AST-27 AlkPhos-52 TotBili-0.5
___ 05:12AM BLOOD CRP-9.9*
___ 10:13AM BLOOD CRP-46.8*
___ 09:22AM BLOOD Lactate-1.5

___ Sigmoidoscopy
Normal mucosa. Mucosa sample biopsied.
 
Brief Hospital Course:
___ year old female with history of ulcerative colitis not
requiring any maintenance medications (last flare years ago) who
presented with acute vomiting, watery nonbloody diarrhea.

#Acute nausea, vomiting (resolved)
#Watery nonbloody diarrhea (improved)
#History of UC
-Her symptoms are likely due to a persistent viral 
gastroenteritis. She was given supportive care counseling on 
discharge.
-CRP elevated but nothing clinically to suggest UC flare. CRP 
also improved significantly on its own the day of discharge.
-Flex
sigmoidoscopy on ___ showed normal mucosa per the GI fellow 
Dr.
___. Biopsy was sent and pending on discharge.
-C diff and norovirus negative
-Stool culture for shigella and other bacteria are pending 
(reports a family member child
had shigella recently, was hospitalized for vomiting/diarrhea).
-Patient received IVF during her stay for dehydration.
-She tolerated a solid diet without vomiting or pain during her 
stay.

Greater than 30 minutes was spent on discharge planning and 
coordination.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  LOPERamide 2 mg PO BID:PRN diarrhea 
RX *loperamide 2 mg 2 mg by mouth twice a day Disp #*30 Capsule 
Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had persistent vomiting and diarrhea.

====================================
What happened at the hospital? 
====================================

-You were given IV fluids because the vomiting and diarrhea had 
dehydrated you. 
-You underwent evaluation by the gastroenterology specialty 
team. You had a flexible sigmoidoscopy and the lining of the gut 
looked normal. This, combined with the fact that your diarrhea 
is non-inflammatory appearing (no blood in the stool), makes a 
flare of your ulcerative colitis highly unlikely to be the cause 
of your acute symptoms. Please note, the gastroenterologist took 
a biopsy of the colon lining for routine check in our lab. Once 
the results are available, the gastroenterologist will notify 
you of the result.
-Most likely your symptoms are due to a viral gastroenteritis. 
The treatment is supportive care, to drink plenty of fluids and 
eat enough to replace any losses by diarrhea, and get plenty of 
rest. It may still take several more days for all the symptoms 
to resolve entirely. It is safe for you to take Loperamide to 
slow down the diarrhea.
-We still checked your stool sample for specific bacterial 
causes that would require antibiotic treatment (such as 
shigella, salmonella, campylobacter, specific E coli strains, 
etc). It can take a couple more days to result in the lab. If 
the results are abnormal we will call you. 

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___